US05811433
b. Ethyl 4,5,5-trichloro-2-ethoxymethylene-3-oxo-4-pentenoate
305 g (1.24 mol) of ethyl 4,5,5-trichloro-3-oxo-4-pentenecarboxylate are heated with 275 g (1.86 mol) of ethyl orthoformate and 316.0 g of acetic anhydride at 150°-160° C. for three hours. All volatile components are removed initially in vacuo, then under a high vacuum up to 100° C.

reactant | ethyl 4,5,5-trichloro-3-oxo-4-pentenecarboxylate | 1.24 mol, 305 g | ClC(C(CCC(=O)OCC)=O)=C(Cl)Cl | C8H9Cl3O3
reactant | ethyl orthoformate | 1.86 mol, 275 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 316.0 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 4,5,5-trichloro-2-ethoxymethylene-3-oxo-4-pentenoate | ClC(C(C(C(=O)OCC)=COCC)=O)=C(Cl)Cl | C10H11Cl3O4
